US08168794B2
Synthesis of (+/−)-tert-butyl 5-(3-aminopyridin-4-yl)-7-methyl-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate
To a degassed solution of (+/−)-tert-butyl 7-methyl-5-(3-nitropyridin-4-yl)-2-oxo-3a,6,7,7a-tetrahydrobenzo[d]oxazole-3(2H)-carboxylate (1.0 equiv.) in MeOH and EtOAc (1:1, 0.1M) was added Pd/C (0.1 equiv.). The reaction was stirred under a hydrogen balloon overnight. Upon completion, the solution was filtered through a pad of Celite and the pad was washed with ethyl acetate. The filtrate was concentrated under vacuo to give (+/−)-tert-butyl 5-(3-aminopyridin-4-yl)-7-methyl-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate as the desired product as a yellow foam in 93% yield. LC/MS=348.1 (M+H), Rt=055 min.

reactant | (+/−)-tert-butyl 7-methyl-5-(3-nitropyridin-4-yl)-2-oxo-3a,6,7,7a-tetrahydrobenzo[d]oxazole-3(2H)-carboxylate | 1.0 equiv. | CC1CC(=CC2N(C(OC21)=O)C(=O)OC(C)(C)C)C2=C(C=NC=C2)[N+](=O)[O-] | C18H21N3O6
solvent | MeOH | CO | CH4O
solvent | EtOAc | 0.1M | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.1 equiv. | [Pd] | Pd
product | (+/−)-tert-butyl 5-(3-aminopyridin-4-yl)-7-methyl-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate | NC=1C=NC=CC1C1CC(C2C(N(C(O2)=O)C(=O)OC(C)(C)C)C1)C | C18H25N3O4
